US07091232B2
A solution of 2-(1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-one (Intermediate E4) (2.11 g, 9.3 mmol) in DMF (25 mL) was treated with triethyl amine (1.9 mL, 13.6 mmol) and triphenylmethylchloride (tritylchloride) (2.74 g, 9.6 mmol, added dropwise in DMF (25 mL)). After 16 h at rt the mixture was partitioned between water and dichloromethane. The aqueous layer was extracted with dichloromethane and the organic layers were collected and dried over MgSO4, filtered and concentrated onto silica gel. The material was placed on a column of silica gel and eluted with 50% EtOAc:hexane. The appropriate fractions were collected and 2-(1-trityl-1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-one (Intermediate TWENTYFIVE-1) was isolated as a white solid, 3.58 g (82%). Sodium hydride (1.2 eqv) in DMF (25 mL) was reacted with diethyl(cyanomethyl)phosphonate (available from Aldrich) (1.3 eqv) (added dropwise). After 30 m at rt a solution of 2-(1-trityl-1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-one (Intermediate TWENTYFIVE-1) in DMF (20 mL) was added in a dropwise fashion to the mixture. The mixture was stirred for 16 h at rt. Another aliquot (1.2 eqv) of prepared NaH and diethyl(cyanomethyl)phosphonate in DMF was added to the mixture and the solution was heated to 40° C. for 18 h. The mixture was quenched with sat. NH4Cl, diluted with water, and extracted with EtOAc. The organic layers were dried over MgSO4, filtered and concentrated onto silica gel. The material was eluted from a column of silica gel with 40% EtOAc:hexane. Two isomers E and Z (trans and cis) were collected from the column and carried onto the next step. A solution of the mixed trans and cis isomers of [2-(1-trityl-1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-ylidene]-acetonitrile (0.33 g) was stirred in 95% TFA (trifluoroacetic acid, 9.5 mL) and water (0.5 mL) for 2 h at rt to remove the trityl protective group. The pH of the mixture was adjusted with 2M NaOH and extracted with EtOAc. The mixture was subjected to an aqueous work-up and concentrated onto silica gel. The material was eluted from a column of silica gel with 5% NH3.MeOH in CH2Cl2 to give [2-(1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-ylidene]-acetonitrile (trans isomer) (Intermediate TWENTYFIVE-2) as a clear colorless oil (˜0.1 g). The cis isomer (Intermediate TWENTYFIVE-3) was isolated from the same process (0.27 g). Use of [2-(1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-ylidene]-acetonitrile (Intermediate TWENTYFIVE-2) in the applicable process steps described in Method A produced [2-(2-thioxo-2,3-dihydro-1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-ylidene]-acetonitrile (Compound 169 trans isomer)

reactant | Sodium hydride | 1.2 eqv | [H-].[Na+]
reactant | diethyl(cyanomethyl)phosphonate | 1.3 eqv | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | 2-(1-trityl-1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1C(C2=CC=CC=C2CC1)=O | C33H28N2O
reactant | NaH | 1.2 eqv | [H-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | [2-(1H-imidazol-4-ylmethyl)-3,4-dihydro-2H-naphthalen-1-ylidene]-acetonitrile | ˜0.1 g | N1C=NC(=C1)CC1C(C2=CC=CC=C2CC1)=CC#N | C16H15N3
